2166-12-22 11:05:00 Physician Attending Progress Note
Chief Complaint: Pulmonary embolism, metastatic melanoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Came to ED with fatigue, weakness. Noted to be tachypneic in the ED.
   CTA obtained, which showed multiple pulmonary emboli. After
   consultation with neuro-oncologist, decision made to start
   anti-coagulation.
   This AM, nurses were a bit concerned about his mental status. Patient
   slightly confused. More sleepy through the early morning.
   Patient complaining of mild respiratory distress.
   24 Hour Events:
 EKG - At [**2166-12-22**] 03:24 AM
   PH:
   Metastatic melanoma (mets to brain, kidney)
   Tremor
   Mild dementia
   Diverticulosis
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Gastrointestinal: Diarrhea
   Integumentary (skin): No(t) Jaundice
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2166-12-22**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 76 (72 - 85) bpm
   BP: 124/76(87) {118/65(81) - 142/80(91)} mmHg
   RR: 23 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
             422 mL
   PO:
             120 mL
   TF:
   IVF:
   302 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,900 mL
   Urine:
   1,200 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,478 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Loud, No(t) Widely split ), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic), S2 not split
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Left base, No(t) Bronchial: , No(t) Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed, Mild weakness left
   arm and leg.
   Labs / Radiology
   12.4 g/dL
   160 K/uL
   95 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   11 mg/dL
   102 mEq/L
   136 mEq/L
   35.5 %
   6.6 K/uL
        [image002.jpg]
                            [**2166-12-22**]  04:08 AM
   WBC
   6.6
   Hct
   35.5
   Plt
   160
   Cr
   0.4
   Glucose
   95
   Other labs: PT / PTT / INR:14.4/93.2/1.3, ALT / AST:42/30, Alk Phos / T
   Bili:77/1.5, Differential-Neuts:86.1 %, Lymph:7.5 %, Mono:3.6 %,
   Eos:2.6 %, Albumin:3.2 g/dL, LDH:350 IU/L, Ca++:6.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: no focal infiltrate. No effusions.
   CT: Right apical infiltrate, density. Bilateral pulmonary emboli, right
   greater than left, involving right mainstem embolism.
   ECG: ECG: Q in III with flat to inverted T wave in III.
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   1) Pulmonary embolism
   2) Metastatic melanoma
   3) Hypocalcemia
   Patient with bilateral pulmonary emboli. On heparin now, with concern
   about potential bleeding into CNS metastases. He is not a very good
   candidate for long term anticoagulation. Need to consider placement of
   IVC filter prior to discharge. Maintain PTT between 60-80. Has been
   hemodynamically stable.
   Oxygenation good on minimal supplemental oxygen.
   No evidence of seizures.
   Calcium down this AM for unclear reasons. Would recheck.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2166-12-22**] 02:00 AM
   20 Gauge - [**2166-12-22**] 09:12 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2166-12-23 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2166-12-22**] 11:22 AM
 ULTRASOUND - At [**2166-12-22**] 03:08 PM
   LENIS were negative for clot
   -Likely am call out today
   -Family mtg- Pt DNR/DNI. Family thinking about palliative care consult
   in am
   -Neuro exam unchanged- remains quite somnolent
   - Leni's negative for DVT
   -Heparin gtt continued
   -Cx NGTD and C Diff pending
   -Trying to get in touch with neuro onc- Jayepalan
   -EKG with ? worstening R bundle
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-23**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 65 (61 - 83) bpm
   BP: 109/79(86) {90/43(55) - 139/89(105)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,060 mL
                                                                     92 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    940 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  3,885 mL
                                                                    220 mL
   Urine:
                                                                  3,185 mL
                                                                    220 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -2,825 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Gen: NAD, AOx2
   HEENT: MMM
   CV: RRR, 1/6 SEM at LLSB, no R/G
   Pulm: CTAB
   Abd: soft, NT, mild distention, BS +
   Extr: No Edema, pulses 2+ symmetric
   Neuro: CN grossly intact, Strength 5/5 in upper and lower extremities,
   sensation grossly intact, negative babinski
   Labs / Radiology
   204 K/uL
   12.7 g/dL
   150 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   36.0 %
   14.2 K/uL
        [image002.jpg]
                            [**2166-12-22**]  04:08 AM
                            [**2166-12-22**]  04:02 PM
                            [**2166-12-23**]  04:58 AM
   WBC
   6.6
   10.0
   14.2
   Hct
   35.5
   34.4
   36.0
   Plt
   160
   167
   204
   Cr
   0.4
   0.6
   0.7
   Glucose
   95
   112
   150
   Other labs: PT / PTT / INR:14.4/102.4/1.3, ALT / AST:42/30, Alk Phos /
   T Bili:77/1.5, Differential-Neuts:86.1 %, Lymph:7.5 %, Mono:3.6 %,
   Eos:2.6 %, Albumin:3.2 g/dL, LDH:350 IU/L, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
   This is a 71 y.o male with h.o metastatic melanoma to brain, who
   presents with difficulty ambulating found to have multiple PE's.
   .
   # Pulmonary embolism-likely secondary to malignancy. Pt continues to
   deny any respiratory symptoms. O2 requirement minimal.
   -heparin IV gtt
   -consider need for IVC filter
   -nebs prn/wheezing
   -wean 02 as tol.
   .
   # Leukocytosis- Likely [**3-15**] to increased steriod doses over past few
   days.  [**Month (only) 8**] be infectious althought patient remains afebrile without
   other symptoms
   - continue steriods at home dose
   - trend fever curve and WBC
   .
   # Difficulty ambulating-pt denies falls. Reports day of admit, felt
   weak. Denies unsteadiness, bowel/bladder incontinence. Likely a result
   of underlying dx, possible neurologic spread, and/or hypoxia. Pt known
   to have a tremor, unclear if this was precipitating factor.
   -PT consulted and will see on floor
   -monitor for hypoxia
   .
   # Metastatic melanoma with brain mets-not currently undergoing therapy,
   required ICU monitoring for proclivity of mets to bleed.  No evidence
   of neural deficits at this time.  Long discussion with family yesterday
   with decision to make patient DNR/DNI and possibly move toward hospice.
   -neuro checks q2-4 hrs on floor
   -continue home steroids and antiepileptics.
   - If goals of care are to keep neurologically intact, consider neuro
   c/s and further imaging if MS deteriorates or new focal deficits
   - Consider palliative care consult today
   .
   # FEN: reg diet, replete lytes PRN.
   .
   # Access: PIV
   .
   # PPx: PPI, bowel reg, heparin
   .
   # Code: DNR/DNI
   .
   # Dispo: Likely tx to floor today
   .
   # Comm: with patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2166-12-22**] 02:00 AM
   20 Gauge - [**2166-12-22**] 09:12 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2166-12-23 12:36:00 Physician Attending Progress Note
Chief Complaint: Pulmonary embolism, malignant melanoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Gas exchange stable. No hypotensive episodes. Mental status remains
   depressed.
   Afebrile
   24 Hour Events:
 EKG - At [**2166-12-22**] 11:22 AM
 ULTRASOUND - At [**2166-12-22**] 03:08 PM
   LENIS were negative for clot
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Other medications:
   MVI, simvastatin, oxybutin, kepra, dexamethasone, famotidine, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-23**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.2
   HR: 79 (59 - 83) bpm
   BP: 110/70(80) {90/43(55) - 139/89(105)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,060 mL
                                                                    168 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    940 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  3,885 mL
                                                                    580 mL
   Urine:
                                                                  3,185 mL
                                                                    580 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -2,825 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Right base, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person,place,time, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   204 K/uL
   150 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   12 mg/dL
   106 mEq/L
   140 mEq/L
   36.0 %
   14.2 K/uL
        [image002.jpg]
                            [**2166-12-22**]  04:08 AM
                            [**2166-12-22**]  04:02 PM
                            [**2166-12-23**]  04:58 AM
   WBC
   6.6
   10.0
   14.2
   Hct
   35.5
   34.4
   36.0
   Plt
   160
   167
   204
   Cr
   0.4
   0.6
   0.7
   Glucose
   95
   112
   150
   Other labs: PT / PTT / INR:14.1/58.7/1.2, ALT / AST:42/30, Alk Phos / T
   Bili:77/1.5, Differential-Neuts:86.1 %, Lymph:7.5 %, Mono:3.6 %,
   Eos:2.6 %, Albumin:3.2 g/dL, LDH:350 IU/L, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
   Mental status much improved. Patient conversant with us. He is
   oriented.
   Denies chest pain and dyspnea. Hemodynamically stable. Continues on IV
   heparin. Will try to wean off oxygen today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2166-12-22**] 02:00 AM
   20 Gauge - [**2166-12-22**] 09:12 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2166-12-24 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Palliative care met with patient and family.  Stated patient may be a
   little confused at present time, thinking he was in trouble for his
   behavior.  - they will follow along
   - Weaned off O2
   - Called out but no bed assigned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-24**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 62 (59 - 80) bpm
   BP: 126/76(87) {103/64(52) - 147/82(94)} mmHg
   RR: 14 (9 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    660 mL
                                                                     14 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    180 mL
                                                                     14 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    450 mL
   Urine:
                                                                    950 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -290 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Gen: NAD, AOx2
   HEENT: MMM
   CV: RRR, 1/6 SEM at LLSB, no R/G
   Pulm: CTAB
   Abd: soft, NT, mild distention, BS +
   Extr: No Edema, pulses 2+ symmetric
   Neuro: CN grossly intact, Strength 5/5 in upper and lower extremities,
   sensation grossly intact, negative babinski
   Labs / Radiology
   226 K/uL
   12.0 g/dL
   163 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   35.1 %
   18.3 K/uL
        [image002.jpg]
                            [**2166-12-22**]  04:08 AM
                            [**2166-12-22**]  04:02 PM
                            [**2166-12-23**]  04:58 AM
                            [**2166-12-24**]  04:26 AM
   WBC
   6.6
   10.0
   14.2
   18.3
   Hct
   35.5
   34.4
   36.0
   35.1
   Plt
   160
   167
   204
   226
   Cr
   0.4
   0.6
   0.7
   0.7
   Glucose
   95
   112
   150
   163
   Other labs: PT / PTT / INR:15.8/150.0/1.4, ALT / AST:42/30, Alk Phos /
   T Bili:77/1.5, Differential-Neuts:86.1 %, Lymph:7.5 %, Mono:3.6 %,
   Eos:2.6 %, Albumin:3.2 g/dL, LDH:350 IU/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   71 y.o male with h.o metastatic melanoma to brain, who presents with
   difficulty ambulating found to have multiple PE's.
   .
   # Pulmonary embolism-likely secondary to malignancy. Pt continues to
   deny any respiratory symptoms. O2 requirement minimal.
   -heparin IV gtt
   -consider need for IVC filter
   -nebs prn/wheezing
   -wean 02 as tol.
   .
   # Leukocytosis- Likely [**3-15**] to increased steriod doses over past few
   days.  [**Month (only) 8**] be infectious althought patient remains afebrile without
   other symptoms
   - continue steriods at home dose
   - trend fever curve and WBC
   .
   # Difficulty ambulating-pt denies falls. Reports day of admit, felt
   weak. Denies unsteadiness, bowel/bladder incontinence. Likely a result
   of underlying dx, possible neurologic spread, and/or hypoxia. Pt known
   to have a tremor, unclear if this was precipitating factor.
   -PT consulted and will see on floor
   -monitor for hypoxia
   .
   # Metastatic melanoma with brain mets-not currently undergoing therapy,
   required ICU monitoring for proclivity of mets to bleed.  No evidence
   of neural deficits at this time.  Long discussion with family yesterday
   with decision to make patient DNR/DNI and possibly move toward hospice.
   -neuro checks q2-4 hrs on floor
   -continue home steroids and antiepileptics.
   - If goals of care are to keep neurologically intact, consider neuro
   c/s and further imaging if MS deteriorates or new focal deficits
   - Consider palliative care consult today
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2166-12-22**] 02:00 AM
   20 Gauge - [**2166-12-22**] 09:12 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2166-12-24 10:35:00 Physician Attending Progress Note
Chief Complaint: Pulmonary embolism, metastastic melanoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Last night, Oxygen decreased.
   Heparin adjusted per PTT.
   Afebrile.
   Mild dyspnea with motion this AM.
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   MVI, oxybutin, finesteride, Kepra, pepcid, colace, heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-12-24**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 61 (61 - 80) bpm
   BP: 125/77(89) {109/64(52) - 147/99(107)} mmHg
   RR: 21 (9 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    807 mL
                                                                    342 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    327 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    820 mL
   Urine:
                                                                    950 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Rare, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   226 K/uL
   163 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   35.1 %
   18.3 K/uL
        [image002.jpg]
                            [**2166-12-22**]  04:08 AM
                            [**2166-12-22**]  04:02 PM
                            [**2166-12-23**]  04:58 AM
                            [**2166-12-24**]  04:26 AM
   WBC
   6.6
   10.0
   14.2
   18.3
   Hct
   35.5
   34.4
   36.0
   35.1
   Plt
   160
   167
   204
   226
   Cr
   0.4
   0.6
   0.7
   0.7
   Glucose
   95
   112
   150
   163
   Other labs: PT / PTT / INR:15.8/150.0/1.4, ALT / AST:42/30, Alk Phos /
   T Bili:77/1.5, Differential-Neuts:86.1 %, Lymph:7.5 %, Mono:3.6 %,
   Eos:2.6 %, Albumin:3.2 g/dL, LDH:350 IU/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PULMONARY EMBOLISM (PE), ACUTE
   METASTASTIC MELANOMA
   Patient doing well on heparin with no evidence of further embolization.
   O2 sats 96% off supplemental oxygen. Mental status improved. No
   evidence of intracranial bleeding. Plan to transition to LMWH for long
   term therapy.
   Cultures have shown salmonella in stool. Antibiotics to be started.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   22 Gauge - [**2166-12-22**] 02:00 AM
   20 Gauge - [**2166-12-22**] 09:12 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 25 minutes